US07683067B2
2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride
Sodium hydride (0.090 g of 60% suspension in mineral oil, 2.25 mmol) was added to a cooled (0° C.) solution of 2-oxoindoline-5-carboxamide (0.315 g, 1.79 mmol) in N,N-dimethylformamide (5 mL). The reaction mixture was stirred at 0° C. for 15 min under an N2 atmosphere, followed by the addition of 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]morpholine (0.345 g, 1.51 mmol) in N,N-dimethylformamide (2 mL). The reaction vessel was closed, immediately warmed up to 130° C., and the reaction was stirred at this temperature for 0.5 h. The cooled mixture was diluted with a saturated NaHCO3 solution (30 mL), and extracted with ethyl acetate (containing 5% methanol). The combined organic extracts were dried (Na2SO4), and the solvents were removed in vacuo. The residue was dissolved in toluene (100 mL), and re-evaporated. The material was dried, dissolved in ethyl acetate (75 mL), and phosphorus trichloride (0.6 mL, 6 mmol) in ethyl acetate (5 mL) was added dropwise under vigorous stirring. The reaction mixture was heated to reflux for 2 h, cooled to room temperature, and quenched with an excess of saturated sodium hydrogen carbonate. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (containing 5% methanol). The combined organic extracts were dried (Na2SO4), the solvents were removed in vacuo, and the residue was purified on a silica gel column using chloroform/methanol/aqueous NH3, (100:10:1), as the eluent to afford the title compound as the base, yield 0.013 g (2.5%). This material was dissolved in chloroform/methanol (1:1), and treated with HCl in diethyl ether (1 M) followed by addition of diethyl ether. The resulting yellow crystals were collected by filtration and washed with diethyl ether to afford 0.010 g of the title compound: 1H NMR (DMSO-d6, 300 MHz) δ 14.70 (br s, 1H), 11.08 (br s, 1H), 10.68 (s, 1H), 8.21 (s, 1H), 8.05-7.95 (m, 2H), 7.84 (d, J=9.0 Hz, 1H), 7.56 (d, J=8.0 Hz, 1H), 7.10 (br s, 1H), 6.92 (d, J=8.0 Hz, 1H), 4.26 (s, 2H), 3.97-3.92 (m, 2H), 3.80-3.72 (m, 2H), 3.40-3.33 (m, 2H), 3.13-3.07 (m, 2H); MS (ES) m/z 354 (M++1).

reactant | Sodium hydride | 2.25 mmol, 0.090 g | [H-].[Na+]
reactant | 2-oxoindoline-5-carboxamide | 1.79 mmol, 0.315 g | O=C1NC2=CC=C(C=C2C1)C(=O)N | C9H8N2O2
reactant | 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]morpholine | 1.51 mmol, 0.345 g | ClC1=CC=C(C=[N+]1[O-])CN1CCOCC1 | C10H13ClN2O2
reactant | phosphorus trichloride | 6 mmol, 0.6 mL | P(Cl)(Cl)Cl | Cl3P
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)N | InChI=1S/C19H20N4O3.ClH/c20-18(24)13-2-4-15-14(9-13)17(19(25)22-15)16-3-1-12(10-21-16)11-23-5-7-26-8-6-23;/h1-4,9-10,22,25H,5-8,11H2,(H2,20,24);1H
